US06521663B2
8. 2-(3-Amino-2-fluoro-6-nitrophenyl)ethyl acetate
To a solution of DIEA (1.80 mL, 10.6 mmol) and 2-(3-amino-2-fluoro-6-nitrophenyl)ethanol (0.88 g, 4.40 mmol), as prepared in the preceding step, in THF (10 mL) in an ice-bath was added a solution of acetyl chloride (319 μL, 4.49 mmol) in THF (5 mL). After stirring for 1.5 hour, the ice-bath was removed and the mixture was continued to stir at ambient temperature overnight. Additional acetyl chloride (63 μL, 0.88 mmol) was added, and the mixture was stirred for another 16 hours. The solvents were removed, and the mixture was partitioned between DCM and H2O. The organic layer was separated, and the aqueous layer was back-extracted with DCM. The organic layers were combined, washed with H2O (twice), dried over Na2SO4, concentrated, and flash chromatographed on silica gel eluting with EtOAc/DCM (0, 1, 2, and 5%) to give the title compound (0.73 g, 69% yield) as a yellow solid. 1H-NMR (400 MHz, CDCl3) δ 7.85 (dd, J=9.0, 1.5 Hz, 1H), 6.68 (t, J=8.9 Hz, 1H), 4.38-4.35 (m, 4H), 3.38 (dt, J=6.6, 2.8 Hz, 2H), 2.03 (s, 3H).

reactant | DIEA | 10.6 mmol, 1.80 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(3-amino-2-fluoro-6-nitrophenyl)ethanol | 4.40 mmol, 0.88 g | NC=1C(=C(C(=CC1)[N+](=O)[O-])CCO)F | C8H9FN2O3
reactant | acetyl chloride | 4.49 mmol, 319 μL | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 0.88 mmol, 63 μL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(3-Amino-2-fluoro-6-nitrophenyl)ethyl acetate | 0.73 g, 69% yield | C(C)(=O)OCCC1=C(C(=CC=C1[N+](=O)[O-])N)F | C10H11FN2O4
